US06693123B2
2-(3,3-Dimethylbutynyl)-4-nitrobenzoic Acid
Methyl 2-(3,3-dimethylbutynyl)-4-nitrobenzoate (0.8 g, 3.1 phenol) was dissolved in 50 mL of methanol containing 5% potassium hydroxide solution and the reaction was stirred at room temperature for 2 hours. The reaction mixture was concentrated and the residue was taken up in water and washed with diethyl ether. The aqueous fraction was carefully acidified with concentrated HCl to a pH of 2.0 and extracted with ethyl acetate (2×50 mLs). The organic fractions were combined, washed once with a saturated solution of sodium chloride, dried over magnesium sulfate and concentrated to give the title compound (0.7 g, 91%) an off-white solid: m.p. 170-173° (C.); 1H NMR (300 MHz, methanol-d4) δ 8.16 (d, J=2.2 Hz, 1H, Aromatic), 8.12 (dd, J=8.7, 2.3 Hz, 1H, Aromatic), 7.96 (d, J=8.5 Hz, 1H, Aromatic), 1.35 (s, 9H, t-Butyl); 13C NMR (75 MHz, methanol-d4) δ 168.5, 150.7, 140.4, 132.4, 129.0, 126.6, 123.1, 107.4, 77.7, 31.2, 29.6; MS m/e calc'd for: 247.0845, found 247.0821.

reactant | Methyl 2-(3,3-dimethylbutynyl)-4-nitrobenzoate | 0.8 g | CC(C#CC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-])(C)C | C14H15NO4
solvent | methanol | 50 mL | CO | CH4O
product | 2-(3,3-Dimethylbutynyl)-4-nitrobenzoic Acid | 0.7 g, 91% | CC(C#CC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-])(C)C | C13H13NO4
